US08859556B2
tert-Butyl 1-(4-chlorophenyl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate (Example 2a, 2.30 g, 7.06 mmol) and Zn(CN)2 (0.87 g, 7.4 mmol) were dissolved in DMF (20 mL) under N2 (g). Pd(PPh3)4 (0.86 g, 0.74 mmol) was added and the mixture was heated at 130° C. overnight. The mixture was cooled to rt, diluted with water and extracted with EtOAc. The organic phase was washed with brine, dried over Na2SO4 and evaporated. The product was purified on a silica column (EtOAc:hexane 1:10) to give tert-butyl 1-(4-cyanophenyl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate (961 mg, 43%). tert-Butyl 1-(4-cyanophenyl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate (961 mg, 3.04 mmol) was dissolved in 1.25 M HCl in MeOH at 0° C. and the mixture was stirred at rt for 8 h. The solvent was removed and the residue dried in vacuo to give 4-(2-amino-3,3-dimethyl-butanoyl)-benzonitrile hydrochloride (110 mg, 93%).

reactant | tert-Butyl 1-(4-cyanophenyl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate | 3.04 mmol, 961 mg | C(#N)C1=CC=C(C=C1)C(C(C(C)(C)C)NC(OC(C)(C)C)=O)=O | C18H24N2O3
reactant | HCl | 1.25 M | Cl | ClH
solvent | MeOH | CO | CH4O
product | 4-(2-amino-3,3-dimethyl-butanoyl)-benzonitrile hydrochloride | 110 mg, 93% | Cl.NC(C(=O)C1=CC=C(C#N)C=C1)C(C)(C)C | InChI=1S/C13H16N2O.ClH/c1-13(2,3)12(15)11(16)10-6-4-9(8-14)5-7-10;/h4-7,12H,15H2,1-3H3;1H
